* pre/post-layout in-situ block metrics, code 0
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.option temp=27
.include /work/analog/out/pex/tt_analog_ring.pex.spice
Vdd VPWR 0 1.2
Vc0 code[0] 0 0
Vc1 code[1] 0 0
Vc2 code[2] 0 0
Vc3 code[3] 0 0
Vc4 code[4] 0 0
Vc5 code[5] 0 0
Vc6 code[6] 0 0
Vc7 code[7] 0 0
Ven enable 0 pulse(0 1.2 1.053e-06 0.1n)
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cload clk_out 0 15f
.control
tran 1.754e-09 2.105e-05
let t0 = 1.947e-05
wrdata nodes.txt v(xdut.s0) v(xdut.s1) v(xdut.s2) v(xdut.s3) v(xdut.s4) v(xdut.s5) v(xdut.s6) v(xdut.s7) v(xdut.s8) v(xdut.s9) v(xdut.s10) v(xdut.b1) v(clk_out) v(xdut.vbp) v(xdut.vbn)
.endc
.end
